### ISSUE TITLE
`calc` tactic display

### ISSUE THREAD

**Issue by hrmacbeth** [Paper-Proof/paperproof#39]
The `calc` tactic has a slightly distracting Paperproof display which privileges the first line of the calc (printing this explicitly) over the later lines.  Term-mode `calc` does not seem to have this issue.

Example:
```lean
import Mathlib.Tactic.Ring
import Paperproof

example {a b : ℕ} (h : b = 2 * a) : ∃ x : ℕ, b ^ 3 + 1 = 2 * x + 1 := by
  have H :=
  -- term-mode `calc`
  calc b ^ 3 + 1 = (2 * a) ^ 3 + 1 := by rw [h]
    _ = 2 * (4 * a ^ 3) + 1 := by ring
  exact ⟨_, H⟩

example {a b : ℕ} (h : b = 2 * a) : ∃ x : ℕ, b ^ 3 + 1 = 2 * x + 1 := by
  use 4 * a ^ 3
  -- tactic-mode `calc`
  calc b ^ 3 + 1 = (2 * a) ^ 3 + 1 := by rw [h]
    _ = 2 * (4 * a ^ 3) + 1 := by ring
```
Here's the Paperproof output, in order:
<img width="511" alt="Screenshot 2024-03-06 at 11 47 11 PM" src="https://github.com/Paper-Proof/paperproof/assets/25316162/e5ee41e0-5e5b-40c2-a1b1-14a0fba5ff6b">
<img width="511" alt="Screenshot 2024-03-06 at 11 46 13 PM" src="https://github.com/Paper-Proof/paperproof/assets/25316162/d7a88bd2-e661-4e0f-b4a4-82e6da451b91">
In the second one (tactic-mode `calc`) this line is printed:
```lean
  calc b ^ 3 + 1 = (2 * a) ^ 3 + 1 := by rw [h]
```
This line is only part of the full calc, and the later line(s) of the calc don't appear; the asymmetry is a bit confusing.  Is there a way to suppress this line from the Paperproof output?

**Comment by lakesare** [comment]
Thanks for the example!

Technically, we just grab the entire line here. So, one trick to deal with similar issues is to move everything after `calc` (or any other such `tactic`) to the new line:

<img width="819" alt="image" src="https://github.com/user-attachments/assets/d32b63b7-d25c-4c26-830f-520ef647456c">

___

Paperproof shouldn't require people to move `calc` arguments to the new line however, so we'll be fixing such issues in the ad hoc manner. When the current `main` is deployed, your proof will be rendered as follows:

<img width="855" alt="image" src="https://github.com/user-attachments/assets/e3c602a5-347e-49cf-8106-bba530a6c02d">

___

_[This issue will be closed once the new version of Paperproof vscode extension is published]_

**Comment by lakesare** [comment]
The vscode extension version that fixes this is v1.6.0, and it's live: https://github.com/Paper-Proof/paperproof/releases/tag/1.6.0.
